US07981903B2
A solution of 1,1-dimethylethyl [2-(methyloxy)-5-nitrophenyl]carbamate (6 g, 22 mmol) in absolute ethanol (150 mL) was hydrogenated with 10% Pd/C (˜1.00 g, Lancaster) at 50 psi overnight. The catalyst was removed by vacuum filtration through a celite pad, rinsed with methanol, and filtrate was concentrated under reduced pressure to provide 1,1-dimethylethyl [5-amino-2-(methyloxy)phenyl]carbamate (4.8 g, 90%) as a tan solid. ESIMS (M+H)+=239.

reactant | 1,1-dimethylethyl [2-(methyloxy)-5-nitrophenyl]carbamate | 22 mmol, 6 g | COC1=C(C=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C12H16N2O5
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Pd/C | ˜1.00 g | [Pd] | Pd
product | 1,1-dimethylethyl [5-amino-2-(methyloxy)phenyl]carbamate | 4.8 g, 90% | NC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)OC | C12H18N2O3
